US08030337B2
N-[2-(6-Amino-7-methoxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide
N-[2-(6-Amino-7-methoxy-2,3-dihydro-1H-inden-1-ylidene)ethyl]acetamide (2.62 g, 10.7 mmol) was dissolved in methanol (50 mL), a 10% palladium-carbon powder (500 mg) was added, and the mixture was stirred at room temperature for 5 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure to give the title compound (2.56 g, yield 96%).

reactant | N-[2-(6-Amino-7-methoxy-2,3-dihydro-1H-inden-1-ylidene)ethyl]acetamide | 10.7 mmol, 2.62 g | NC1=CC=C2CCC(C2=C1OC)=CCNC(C)=O | C14H18N2O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | N-[2-(6-Amino-7-methoxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide | 2.56 g, yield 96% | NC1=CC=C2CCC(C2=C1OC)CCNC(C)=O | C14H20N2O2
